US05612340
0.5 g (2.38 mmol) of 3,4,5-trimethoxyacetophenone is stirred in 2.7 ml of dimethylformamide diethylacetal for 96 h at 110°. After cooling to 0°, filtering and drying, 3-dimethylamino-1-(3,4,5-trimethoxy-phenyl)-2-propen-1-one is obtained; 1H-NMR (DMSO): 2.9 (3H,s), 3.1 (3H,s), 3.7 (3H,s), 3.85 (6H,s), 5.83 (1H,d), 7.19 (2H,s), 7.7 (1H,d).

reactant | 3,4,5-trimethoxyacetophenone | 2.38 mmol, 0.5 g | CC(=O)C1=CC(=C(C(=C1)OC)OC)OC | C11H14O4
reactant | dimethylformamide diethylacetal | 2.7 ml | C(C)OC(N(C)C)OCC | C7H17NO2
product | 3-dimethylamino-1-(3,4,5-trimethoxy-phenyl)-2-propen-1-one | CN(C=CC(=O)C1=CC(=C(C(=C1)OC)OC)OC)C | C14H19NO4
